US05252538
Preparation of ethyl 4-amino-1-methyl-2-pyrrolecarboxylate
Ethyl 1-methyl-4-nitro-2-pyrrolecarboxylate (16.0 g, 0.081 mol) (M. J. Weiss, J. S. Webb and J. M. Smith, J. Amer. Chem. Soc., 79, 1266 (1957)) is dissolved in (200 mL) ethanol and (1.60 g) of 10% platinum on carbon is then added. The mixture is shaken for 16 hours in a PARR hydrogenator. The catalyst is removed by filtration through a pad of celite and the filtrate is concentrated in vacuo to a yellow oil. The oil is carried on directly without purification.

reactant | Ethyl 1-methyl-4-nitro-2-pyrrolecarboxylate | 0.081 mol, 16.0 g | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OCC | C8H10N2O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 1.60 g | [Pt] | Pt
product | ethyl 4-amino-1-methyl-2-pyrrolecarboxylate | NC=1C=C(N(C1)C)C(=O)OCC | C8H12N2O2
